US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-morpholin-4-ylmethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 282, step 2, with 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and morpholine as starting material, 55 mg (28%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.60 (t, 4 H), 3.50 (s 2 H), 2.405 (t, 4 H); ES-MS m/z 516.25 [M+H]+, HPLC RT (min) 2.61.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CBr | C27H21BrN6
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-morpholin-4-ylmethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 55 mg, 28% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CN2CCOCC2 | C31H29N7O
